US06936608B2
b) 7-[4-Fluoro-3-(5-fluoropyridin-2-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
4-Fluoro-3-(5-fluoropyridin-2-yl)phenylboronic acid (61 mg, 0.25 mmol) was coupled to 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.046 g, 0.17 mmol) as described in Example 37, step e, using 2 M Na2CO3 (0.26 ml) and tetrakis(triphenylphosphine)palladium(0) (0.010 g) in 1,2-dimethoxyethane (2 ml). The crude residue was purified by flash chromatography (silica gel, 2.5% MeOH/CH2Cl2) and triturated with Et2O to yield the title compound (23 mg, 35%): 1H NMR (400 MHz, CDCl3) δ 7.39 (1H, dd, J 8.8, 10.8 Hz), 7.51-7.56 (1H, m), 8.89-7.94 (1H, m), 8.14-8.17 (1H, m), 8.63 (1H, d, J 2.7 Hz), 8.66 (1H, s), 8.74 (1H, dd, J 7.4, 2.3 Hz), 8.83 (1H, s); MS (ES+) m/z 378 [M+H]+.

reactant | 4-Fluoro-3-(5-fluoropyridin-2-yl)phenylboronic acid | 0.25 mmol, 61 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1)F | C11H8BF2NO2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.17 mmol, 0.046 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | Na2CO3 | 2 M, 0.26 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.010 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[4-Fluoro-3-(5-fluoropyridin-2-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 23 mg, 35% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)C2=NC=C(C=C2)F | C17H8F5N5
